US06852727B2
Step C: N-benzyloxycarbonyl piperidin-4-carboxaldehyde.
N-Methyl-N-methoxy 1-benzyloxycarbonylpiperidin-4-carboxamide (79.9 g, 261 mmol) was azeotroped with toluene (2×200 mL) to remove any water and dissolved in THF (700 mL). The solution was cooled to −60° C., before dropwise addition of a solution of lithium aluminum hydride in TBF (1 M, 100 mL, 100 mmol). The temperature of the reaction mixture was allowed to rise slowly to −30° C. over approx. 1 h. The mixture was transferred by cannula into a rapidly stirred mixture of ethyl acetate (200 mL) and 10% aqueous citric acid (500 mL), cooled to 0° C. After addition was complete, ether (500 mL) was added and the phases separated. The organic layer was washed with 1M HCl, water, saturated sodium bicarbonate solution and brine. After drying over anhydrous sodium sulfate, the solvent was evaporated in vacuo to afford the crude product, used without further purification (59 g).

reactant | N-Methyl-N-methoxy 1-benzyloxycarbonylpiperidin-4-carboxamide | 261 mmol, 79.9 g | CN(C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)OC | C16H22N2O4
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | citric acid | 500 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl piperidin-4-carboxaldehyde | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
